US05866592
The same procedure as in Example 2-(6-2) was performed with N-4-cyanobenzoyl-β-phenyl-α,α-dimethyl-β-alanine (0.5 g, 1.55 mmol) using t-butyl 4-piperidine acetate (0.93 g, 4.66 mmol) to yield an oil of N-4-cyanobenzoyl-β-phenylα,α-dimethyl-β-alanyl-4-piperidineacetic acid t-butyl ester (470 mg, 60.2%).

reactant | N-4-cyanobenzoyl-β-phenyl-α,α-dimethyl-β-alanine | 1.55 mmol, 0.5 g | C(#N)C1=CC=C(C(=O)NC(C(C(=O)O)(C)C)C2=CC=CC=C2)C=C1 | C19H18N2O3
reactant | t-butyl 4-piperidine acetate | 4.66 mmol, 0.93 g | N1CCC(CC1)CC(=O)OC(C)(C)C | C11H21NO2
product | N-4-cyanobenzoyl-β-phenylα,α-dimethyl-β-alanyl-4-piperidineacetic acid t-butyl ester | 470 mg, 60.2% | C(C)(C)(C)OC(CC1CCN(CC1)C(C(C(NC(C1=CC=C(C=C1)C#N)=O)C1=CC=CC=C1)(C)C)=O)=O | C30H37N3O4
